US06384033B1
N-(2-hydroxy-1,1-dimethyethyl)-4-pyrazolecarboxamide
A solution of DMF (2 drops) and oxalyl chloride (0.88 g, 4.5 mmol) in methylene chloride (4 ml) was added to a suspension of 4-pyrazolecarboxylic acid (0.50 g, 4.5 mmol) in methylene chloride (6 ml) and stirred at room temperature for 1 hour. The reaction mixture was concentrated and dried under a reduced pressure. To a suspension of the obtained solid in methylene chloride (5 ml) cooled in an ice-bath, 2-amino-2-methyl-1-propanol (1.33 g, 15 mmol) was added. The mixture was stirred at room temperature for 1 hour, added saturated aqueous NaHCO3 to, and concentrated and dried under a reduced pressure. The residue was extracted with warm chloroform and the solvent was evaporated under a reduced pressure. The residue was subjected to silica gel chromatography (chloroform/methanol/triethylamine=100/10/1) to give the title compound (0.37 g, 45%).

reactant | oxalyl chloride | 4.5 mmol, 0.88 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-pyrazolecarboxylic acid | 4.5 mmol, 0.50 g | N1N=CC(=C1)C(=O)O | C4H4N2O2
reactant | 2-amino-2-methyl-1-propanol | 15 mmol, 1.33 g | NC(CO)(C)C | C4H11NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxy-1,1-dimethyethyl)-4-pyrazolecarboxamide | 0.37 g, 45% | OCC(C)(C)NC(=O)C=1C=NNC1 | C8H13N3O2
